US07465815B2
3-(4-Isopropylphenyl)-4,6,7-trimethyl-2,3-dihydro-1-benzofuran-5-amine
A mixture of N-benzyl-3-(4-isopropylphenyl)-4,6,7-trimethyl-2,3-dihydro-1-benzofuran-5-amine obtained in Reference Example 24 (900 mg, 2.33 mmol), 10%-palladium carbon (50% hydrous, 90 mg) and ammonium formate (294 mg, 4.66 mmol) in ethanol (10 mL) was heated under reflux for 2 hours. The solid material was removed and the filtrate was concentrated under reduced pressure. Water and ethyl acetate were added to the residue to separate the organic layer, and the aqueous layer was extracted with ethyl acetate. The combined organic layer was washed with water, and dried over anhydrous sodium sulfate. The solvent was distilled off under reduced pressure to obtain a residue, which was crystallized from ethyl acetate-hexane to obtain 510 mg (yield 74%) of the title compound. Melting point: 171-173° C.

reactant | N-benzyl-3-(4-isopropylphenyl)-4,6,7-trimethyl-2,3-dihydro-1-benzofuran-5-amine | C(C1=CC=CC=C1)NC=1C(=C(C2=C(C(CO2)C2=CC=C(C=C2)C(C)C)C1C)C)C | C27H31NO
reactant | ammonium formate | 4.66 mmol, 294 mg | C(=O)[O-].[NH4+]
solvent | ethanol | 10 mL | C(C)O | C2H6O
catalyst | palladium carbon | 90 mg | [C].[Pd]
product | 3-(4-Isopropylphenyl)-4,6,7-trimethyl-2,3-dihydro-1-benzofuran-5-amine | 510 mg, yield 74% | C(C)(C)C1=CC=C(C=C1)C1COC2=C1C(=C(C(=C2C)C)N)C | C20H25NO
